comparator test

.include "/Users/glutami/Workspace/agent-ds-code-test/morl-ckt-sizing/eval_engines/pdk/gf180/ngspice/design.ngspice"

.lib "/Users/glutami/Workspace/agent-ds-code-test/morl-ckt-sizing/eval_engines/pdk/gf180/ngspice/sm141064.ngspice" typical

.param sw_stat_global = 0
.param sw_stat_mismatch = 0


*********COMPARATOR TRAN Simulation***********

.param wn1=33.3u ln1=300n mn1=1
.param wn2=33.3u ln2=300n mn2=1
.param wn3=33.3u ln3=300n mn3=1
.param wp1=33.3u lp1=600n mp1=1
.param wp2=33.3u lp2=600n mp2=1
.param wp3=33.3u lp3=600n mp3=1
.param vddh=3.3
.param vcm=0.5*vddh
.param vneg=vcm-0.05
.param vpos=vcm+0.05

****provided netlist *************
xm1 p clk 0 0 nmos_3p3 w=wn1 l=ln1 m=mn1  
xm2a xn inp p 0 nmos_3p3 w=wn2 l=ln2 m=mn2
xm2b xp inn p 0 nmos_3p3 w=wn2 l=ln2 m=mn2
xm3a outn outp xn 0 nmos_3p3 w=wn3 l=ln3 m=mn3 
xm3b outp outn xp 0 nmos_3p3 w=wn3 l=ln3 m=mn3 
xm4a outn outp VDD VDD pmos_3p3 w=wp1 l=lp1 m=mp1
xm4b outp outn VDD VDD pmos_3p3 w=wp1 l=lp1 m=mp1
xm5a outn clk VDD VDD pmos_3p3 w=wp2 l=lp2 m=mp2
xm5b outp clk VDD VDD pmos_3p3 w=wp2 l=lp2 m=mp2
xm6a xn clk VDD VDD pmos_3p3 w=wp3 l=lp3 m=mp3
xm6b xp clk VDD VDD pmos_3p3 w=wp3 l=lp3 m=mp3

C1 outp 0 {25f}
C2 outn 0 {25f}
*****end provided netlist************
vdd VDD 0 dc=vddh

vinn inn 0 dc=vneg
vinp inp 0 dc=vpos
*************************************
.param freq=250Meg
.param per=1/freq
.param pvdda=vddh
Vclk clk 0 pulse (0 'pvdda' '0.4*per' '0.1*per' '0.1*per' '0.4*per' 'per')

.control
set temp=27
let mc_runs = 1
let run = 0
set curplot=new
echo $curplot
set scratch=$curplot
setplot $scratch
let clk2out_arr=unitvec(mc_runs)
let clk2rec_arr=unitvec(mc_runs)
let power_arr=unitvec(mc_runs)

dowhile run < mc_runs
  mc_source
  
  let per=1/250Meg
  let tstep=per/50
  let tstop=4*per
  tran 20p 16n
  save outp outn clk
  
  meas tran clk2out trig v(clk) val=0.5 rise=2 targ v(outn) val=0.5 fall=2
  meas tran clk2rec trig v(clk) val=0.5 fall=2 targ v(outn) val=0.99 rise=2
  let mypower = v(VDD) * i(vdd)
  meas tran idt integ i(vdd) from=4n to=8n
  echo $curplot
  set run=$&run
  set dt=$curplot
  setplot $scratch
  echo $curplot
  
  let vout{$run}={$dt}.v(outn)
  let clk2out_arr[run]={$dt}.clk2out
  let clk2rec_arr[run]={$dt}.clk2rec
  let power_arr[run]={$dt}.idt
  
  setplot $dt
  let run = run+1
end

wrdata tran.csv {$scratch}.clk2out_arr {$scratch}.power_arr {$scratch}.clk2rec_arr
.endc

.end
    
    










